US06221876B1
Trans-6-Nitro-1-Amino-2-Hydroxyindane
A suspension of 6-nitro-1,2-epoxyindane in concentrated ammonium hydroxide (250 mL) was heated overnight in an oil bath at 45° C. The next day water was added and the basic aqueous layer was saturated with sodium chloride. The cloudy reaction mixture was extracted with tetrahydrofuran until no more product could be seen in the aqueous layer by TLC. The organic layers were combined, dried over magnesium sulfate, filtered, concentrated, and recrystallized from ethyl acetate to give 11.54 g of the title compound. (91% over two steps).

reactant | 6-nitro-1,2-epoxyindane | [N+](=O)([O-])C1=CC=C2CC3C(C2=C1)O3 | C9H7NO3
reactant | water | O | H2O
reactant | sodium chloride | [Cl-].[Na+]
reactant | ammonium hydroxide | 250 mL | [OH-].[NH4+]
product | Trans-6-Nitro-1-Amino-2-Hydroxyindane | 11.54 g | [N+](=O)([O-])C1=CC=C2C[C@H]([C@@H](C2=C1)N)O | C9H10N2O3
